US06921740B1
Synthesis of N-(2-hydroxyphenyl)-benzenesulfonamide
A flask with a stirrer was charged with 10.9 g of 2-aminophenol, 10.1 g of triethylamine and 100 ml of acetone, and a solution of 17.7 g of benzenesulfonyl chloride in 50 ml of acetone was dropwise added with cooling with ice over 30 minutes. After completion of the addition, the reaction mixture was stirred at room temperature for 2 hours and then poured into 500 ml of ice water. A precipitated crystal was recovered by filtration and washed with water. The obtained crystal was recrystallized from ethyl acetate/n-hexane mixed solvents, to give 11.0 g of an end product. Melting point 140.0° C.

reactant | 2-aminophenol | 10.9 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | triethylamine | 10.1 g | C(C)N(CC)CC | C6H15N
reactant | benzenesulfonyl chloride | 17.7 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | N-(2-hydroxyphenyl)-benzenesulfonamide | 11.0 g | OC1=C(C=CC=C1)NS(=O)(=O)C1=CC=CC=C1 | C12H11NO3S
